US06869947B2
Step A: 7-Benzyl-8-chloro-1,3-dimethyl-3,7-dihydropurine-2,6-dione (17A)
From 8-Chlorotheophylline (50 g, 233 mmol) and benzyl bromide. The reaction mixture was evaporated to dryness in vacuo, dissolved in DCM (400 ml) and water (250 ml). The separated aqueous phase was extracted with DCM (150 ml), and the combined DCM phases were washed with brine, dried (MgSO4), and evaporated in vacuo.

reactant | 8-Chlorotheophylline | 233 mmol, 50 g | ClC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C7H7ClN4O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 7-Benzyl-8-chloro-1,3-dimethyl-3,7-dihydropurine-2,6-dione | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)C)=O)C)Cl | C14H13ClN4O2
